US05374720
Di-tert-butyl dicarbonate (1.97 ml, 8.6 mmol) was added to a solution comprising (2S,4S)-N-allyloxycarbonyl-2-[(Z)-2-oxopyrrolidin-3-ylidenemethyl]-4-tritylthiopyrrolidine (3 g, 5.7 mmol, compound of Reference Example 7-1 of Japanese Patent Application No. 192,093/1990), triethylamine (0.8 ml, 5.7 mmol), 4-(dimethylamino)pyridine (699 mg, 5.7 mmol) and tetrahydrofuran (30 ml). The mixture was stirred at room temperature for 5 hours, and then the solvent was removed under reduced pressure. Ethyl acetate (50 ml) was added to the residue, and the mixture was washed sequentially with a 10% sodium dihydrogen phosphate aqueous solution (20 ml) and a saturated sodium chloride aqueous solution (20 ml), then dried over anhydrous sodium sulfate and concentrated. The residue was purified by silica gel flash column chromatography (Wakogel™ C-300, 40 ml, ethyl acetate-n-hexane 1:2) to obtain (2S,4S)-N-allyloxycarbonyl-2-[(Z)-N-tert-butoxycarbonyl-2-oxopyrrolidin-3-ylidenemethyl]-4-tritylthiopyrrolidine (3.24 g, yield: 91%).

reactant | Di-tert-butyl dicarbonate | 8.6 mmol, 1.97 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (2S,4S)-N-allyloxycarbonyl-2-[(Z)-2-oxopyrrolidin-3-ylidenemethyl]-4-tritylthiopyrrolidine | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)\C=C\1/C(NCC1)=O | C32H32N2O3S
reactant | triethylamine | 5.7 mmol, 0.8 ml | C(C)N(CC)CC | C6H15N
catalyst | 4-(dimethylamino)pyridine | 5.7 mmol, 699 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (2S,4S)-N-allyloxycarbonyl-2-[(Z)-N-tert-butoxycarbonyl-2-oxopyrrolidin-3-ylidenemethyl]-4-tritylthiopyrrolidine | 3.24 g, yield: 91% | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)\C=C\1/C(N(CC1)C(=O)OC(C)(C)C)=O | C37H40N2O5S
